US08124641B2
Chlorosulfonic acid (4 mL) was added to 1,3,5-tri-tert-butyl-benzene (1.5 g, 6.1 mmol) which had been cooled to 0° C. After being stirred at 0° C. for 30 minutes, the mixture was warmed to room temperature and stirred for 1 hour. Then the mixture was poured into ice water (50 mL) and extracted with dichloromethane (20 mL×3). The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography (gradient elution: 0-20% ethyl acetate in petroleum ether) to afford 3,5-di-tert-butyl-benzenesulfonyl chloride (880 mg, 50%) as a yellow solid (reference: Guthrie, R. D. et al. Aust. J. Chem. 40 (1987) 2133).

reactant | Chlorosulfonic acid | 4 mL | ClS(=O)(=O)O | ClHO3S
reactant | 1,3,5-tri-tert-butyl-benzene | 6.1 mmol, 1.5 g | C(C)(C)(C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C18H30
product | 3,5-di-tert-butyl-benzenesulfonyl chloride | 880 mg, 50% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S(=O)(=O)Cl | C14H21ClO2S
